US05854232
N-Adamantan-1-yl-2,2-bis-pyridin-4-ylmethyl-malonamic acid methyl ester
To a stirred solution of 3-pyridin4-yl-2-pyridin4-ylmethyl-propionic acid methyl ester (24.44 g, 95 mmol) in tetrahydrofuran (300 ml) chilled with a dry ice/acetone bath, lithium diisopropylamide (70 ml of a 1.5M solution in cyclohexane, 105 mmol of lithium diisopropylamide) was added dropwise over 15 minutes. After stirring for 20 minutes, the solution temperature was elevated to -40° C. After 30 minutes of stirring at -40° C., a solution of adamantyl isocyanate (16.92 g, 95 mmol) in tetrahydrofuran (100 ml) was added dropwise over 10 minutes. After 15 minutes stirring, the cooling bath was removed and the reaction was then stirred for 3 hours at ambient temperature. The reaction was then chilled in an ice water bath and glacial acetic acid (14 ml) was added dropwise over 10 minutes. After stirring for 20 minutes at ambient temperature, the solvent was removed in vacuo, and the residue was extracted into water/methylene chloride (300 ml of each). The aqueous phase was extracted three times with 200 ml portions of fresh methylene chloride. The combined organic extracts were dried (anhydrous sodium sulfate), and concentrated in vacuo to an oil (49.6 g).

reactant | 3-pyridin4-yl-2-pyridin4-ylmethyl-propionic acid methyl ester | 95 mmol, 24.44 g | COC(C(CC1=CC=NC=C1)CC1=CC=NC=C1)=O | C15H16N2O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | lithium diisopropylamide | 105 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | adamantyl isocyanate | 95 mmol, 16.92 g | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Adamantan-1-yl-2,2-bis-pyridin-4-ylmethyl-malonamic acid methyl ester | COC(C(C(=O)NC12CC3CC(CC(C1)C3)C2)(CC2=CC=NC=C2)CC2=CC=NC=C2)=O | C26H31N3O3
